US06528525B1
(a) Ethyl 2-(4-benzyloxybenzyl)-2-methylcaproate
In a similar manner to that described in Reference example 7(c), a reaction was carried out using ethyl 2-(4-benzyloxybenzyl)caproate (2.04 g) and methyl iodide (1.12 ml) instead of 4-benzyloxybenzyl chloride and cyclohexylisopropylamine (1.48 ml) instead of diisopropylamine and the reaction mixture was treated to afford the desired compound (1.80 g) as a syrup.

reactant | ethyl 2-(4-benzyloxybenzyl)caproate | 2.04 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)CCCC)C=C1 | C22H28O3
reactant | methyl iodide | 1.12 ml | CI | CH3I
reactant | cyclohexylisopropylamine | 1.48 ml | C1(CCCCC1)NC(C)C | C9H19N
product | Ethyl 2-(4-benzyloxybenzyl)-2-methylcaproate | 1.80 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(CCCC)C)C=C1 | C23H30O3
